US05380721
The product was made by procedures which are well known in the art, that is, by alkylation of 4-nitrophenol (29.2 g, 0.21 mol) with ethyl chloroacetate (24.5 g, 0.20 mole) in the presence of potassium carbonate (30.4 g, 0.22 mol), potassium iodide (0.5 g) and acetonitrile (150 mL) to afford ethyl 4-nitrophenoxyacetate (33 g, 73.3%), m.p. 75°-76° C. after recrystallization from tert-butylmethyl ether; hydrogenation of the latter (22.5 g) at 50 psi in ethyl acetate (200 mL) in the presence of 10% palladium on Carbon (0.3 g) to afford 22.5 g (97%) of ethyl 4-aminophenoxyacetate, m.p. 157°-158° C.; and treatment of the latter (18.52 g, 0.08 mol) with methanesulfonyl chloride (12.6 g, 0.11 mol) in CH2Cl2 (250 mL) in the presence of pyridine (35 mL) to afford N-[4-(ethoxycarbonylmethoxy)phenyl]methanesulfonamide, 20.06 g (92%), m.p. 77.3°-78.5° C. after recrystallization from ethanol.

reactant | 4-nitrophenol | 0.21 mol, 29.2 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | ethyl chloroacetate | 0.20 mole, 24.5 g | ClCC(=O)OCC | C4H7ClO2
reactant | potassium carbonate | 0.22 mol, 30.4 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium iodide | 0.5 g | [I-].[K+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | ethyl 4-nitrophenoxyacetate | 33 g, 73.3% | [N+](=O)([O-])C1=CC=C(OCC(=O)OCC)C=C1 | C10H11NO5
